US05200110
In chloroform, commercially available compound [U], 2,6-difluoroaniline, is brominated with bromine in the presence of pyrimidine to yield compound [V], 4-bromo-2,6-difluoroaniline. In NMP, compound [V] is cyanated with copper (I) cyanide to form a copper complex. The copper complex is decomposed with EDA, to yield compound [W], 4-amino-3,5-difluorobenzonitrile. Compound [W] is converted into its corresponding diazonium salt with concentrated sulfuric acid in glacial acetic acid. In hydrobromic acid, the diazonium salt is brominated with copper (I) bromide to yield compound [X], 4-bromo-3,5-difluorobenzonitrile. Compound [X] is reacted with gaseous hydrogen chloride in anhydrous ethanol to yield compound [Y], 4-bromo-3,5-difluorobenzimidate hydrogen chloride. In ethanol, compound [Y] is reacted with gaseous ammonia to yield compound [Z], 4-bromo-3,5-difluorobenzamidine hydrogen chloride.

reactant | 2,6-difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | bromine | BrBr | Br2
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,6-difluoroaniline | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
